US05180419
Preparation of Diethyl 2-methyl-5,6-benzoxazoledicarboxylate
A mixture of diethyl-4-amino-5-hydroxyphthalate (4.00 g, 15.8 mmol) and triethylorthoacetate (29.0 mL, 158 mmol) is stirred for 2 hours at reflux temperature, cooled to room temperature and diluted with hexanes. Silica gel chromatography (gradient elution:hexanes to (2:1) hexanes:ethyl acetate) followed by recrystallization from 1% ethyl acetate:-hexanes affords the title product as an off-white crystalline solid, 3.54 g (80.8%), identified by NMR, IR and mass spectral analyses.

reactant | diethyl-4-amino-5-hydroxyphthalate | 15.8 mmol, 4.00 g | C(C)OC(C=1C(C(=O)OCC)=CC(=C(C1)O)N)=O | C12H15NO5
reactant | triethylorthoacetate | 158 mmol, 29.0 mL | C(C)C(C([O-])([O-])[O-])(CC)CC
product | Diethyl 2-methyl-5,6-benzoxazoledicarboxylate | CC=1OC2=C(N1)C=C(C(=C2)C(=O)OCC)C(=O)OCC | C14H15NO5
